US09427475B2
Step D: 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)propanol
A solution of 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)-1-propene (10.4 g, 22.68 mmol) in THF (100 mL) at 0° C. was added slowly 9-BBN (58.5 mL, 29.3 mmol, 0.5 M in THF). The mixture was allowed to warm up to rt, and then refluxed for 3 hr. The reaction mixture was then cooled to rt and ethanol (4.4 mL, 75 mmol) was added dropwise, followed by NaOH (11.51 ml, 46 mmol, 4.0 M in water). The resulting mixture was cooled to 0° C. and 35% hydrogen peroxide (10 mL, 115 mmol) was added. The resulting suspension was stirred at rt overnight. The reaction mixture was diluted with brine (125 mL) and ether (200 mL). The organic layer was washed with brine (2×125 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel (330 g), eluting with 0-100% EtOAc in hexanes to give the title compound. 1H NMR (CDCl3, 400 MHz) δ 1.33 (d, J=6.6, 3H), 1.67 (m, 3H), 1.70 (m, 1H), 3.65 (m, 2H), 3.80 (m, 3H), 3.98 (m, 1H), 4.02 (m, 1H), 4.56 (d, J=11.8, 1H), 4.63 (t, J=12.2, 2H), 4.69 (d, J=12.0, 1H), 4.78 (dd, J=12.1, 2.1, 2H), 7.27-7.40 (m, 15H).

reactant | 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)-1-propene | 22.68 mmol, 10.4 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CC=C | C30H34O4
reactant | 9-BBN | 29.3 mmol, 0.5 M, 58.5 mL | B1C2CCCC1CCC2 | C8H15B
reactant | ethanol | 75 mmol, 4.4 mL | C(C)O | C2H6O
reactant | NaOH | 46 mmol, 4.0 M, 11.51 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 115 mmol, 10 mL | OO | H2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | brine | 125 mL | [Cl-].[Na+].O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)propanol | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CCCO | C30H36O5
